US07737145B2
Methyl 4-[[methyl[2-[methyl[[4-[4-(2-oxazolyl)phenoxy]phenyl]methyl]amino]-ethyl]amino]methyl]benzoate (120 mg 0.25 mmol) was stirred with aqueous sodium hydroxide solution (1.25 mL, 2 M) in methanol (3 mL) overnight at ambient temperature, and then concentrated under reduced pressure. The residue was diluted with water, adjusted to pH 8 with 1 M aqueous hydrochloric acid, and extracted with butanol. The combined organic layers were concentrated under reduced pressure. Flash chromatography gave 41 mg of 4-[[methyl[2-[methyl[[4-[4-(2-oxazolyl)phenoxy]phenyl]methyl]amino]ethyl]amino]methyl]benzoic acid; 1H NMR (300 MHz, CD3OD) δ 7.98 (d, 2H), 7.96 (d, 2H), 7.95 (d, 1H), 7.41 (d, 2H), 7.38 (d, 2H), 7.26 (d, 1H), 7.06 (d, 4H), 3.80 (s, 2H), 3.78 (s, 2H), 2.86 (m, 4H), 2.40 (s, 3H), 2.39 (s, 3H) ppm.

reactant | Methyl 4-[[methyl[2-[methyl[[4-[4-(2-oxazolyl)phenoxy]phenyl]methyl]amino]-ethyl]amino]methyl]benzoate | 0.25 mmol, 120 mg | CN(CCN(CC1=CC=C(C=C1)OC1=CC=C(C=C1)C=1OC=CN1)C)CC1=CC=C(C(=O)OC)C=C1 | C29H31N3O4
reactant | sodium hydroxide | 2 M, 1.25 mL | [OH-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
product | 4-[[methyl[2-[methyl[[4-[4-(2-oxazolyl)phenoxy]phenyl]methyl]amino]ethyl]amino]methyl]benzoic acid | 41 mg | CN(CCN(CC1=CC=C(C=C1)OC1=CC=C(C=C1)C=1OC=CN1)C)CC1=CC=C(C(=O)O)C=C1 | C28H29N3O4
